US05401756
b) Preparation of 3,4-dihydro-7-hydroxy-2-(3-pyridylmethyl)-1 (2H)-isoquinolinone
To 84 ml of 47% aqueous hydrogen bromide was added 11.3 g of 3,4-dihydro-7-methoxy-2-(3-pyridylmethyl)-1 (2H)-isoquinolinone, and the mixture was refluxed under heating for 4.5 hours. After ice cooling, the mixture was neutralized with aqueous sodium hydroxide, made weakly acidic with acetic acid and shaken with ethyl acetate. The organic layer was washed with water and saturated brine in order, dried over anhydrous magnesium sulfate and concentrated in vacuo. The resultant residue was chromatographed on a column of silica gel, eluting with ethyl acetate to give 5.00 g of the titled compound.

reactant | hydrogen bromide | 84 ml | Br | BrH
reactant | 3,4-dihydro-7-methoxy-2-(3-pyridylmethyl)-1 (2H)-isoquinolinone | 11.3 g | COC1=CC=C2CCN(C(C2=C1)=O)CC=1C=NC=CC1 | C16H16N2O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3,4-dihydro-7-hydroxy-2-(3-pyridylmethyl)-1 (2H)-isoquinolinone | 5.00 g | OC1=CC=C2CCN(C(C2=C1)=O)CC=1C=NC=CC1 | C15H14N2O2
